US06608048B2
N-(4-Chloro-3-cyano-6-methoxy-7-quinolinyl)acetamide
An amount of 10 g (0.039 mol) of N-(3-cyano-6-methoxy-4-oxo-1,4-dihydro-7-quinolinyl)acetamide was subsequently stirred in 29 mL (0.31 mol) of phosphorus oxychloride, heated at 100° C. for 0.5 hours, and cooled to 0° C. To this was slowly added a saturated solution of sodium bicarbonate and ethyl acetate. After separation of the layers, the organic layer was washed with saturated brine, dried over sodium sulfate, and evaporated to give a brown solid (9.8 g, 73% yield), mp 230-235° C.; 1H NMR (DMSO-d6) δ 9.77 (s, 11-1), 8.98 (s, 1H), 8.94 (s, 1H), 7.50 (s, 1H), 4.11 (s, 3H), 2.25 (s, 3H); HRMS (EI) m/z 275.0466 (M+1). Analysis for C13H10ClN3O2.0.75H2O: Found: C, 53.99; H, 3.83; N, 14.53. Calcd: C, 53.62; H, 3.68; N, 14.98.

reactant | N-(3-cyano-6-methoxy-4-oxo-1,4-dihydro-7-quinolinyl)acetamide | 0.039 mol, 10 g | C(#N)C1=CNC2=CC(=C(C=C2C1=O)OC)NC(C)=O | C13H11N3O3
reactant | phosphorus oxychloride | 0.31 mol, 29 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(4-Chloro-3-cyano-6-methoxy-7-quinolinyl)acetamide | 9.8 g, 73% yield | ClC1=C(C=NC2=CC(=C(C=C12)OC)NC(C)=O)C#N | C13H10ClN3O2
